US07872014B2
To a solution of 1,1-dimethylethyl 4-({[5-(hydroxymethyl)-2-(methyloxy) phenyl]oxy}methyl)piperidine-1-carboxylate (1.88 g, 5.4 mmol) in dichloromethane (14 mL) was added triethylamine (2.3 mL, 16.2 mmol). The resulting mixture was cooled with an ice bath, and methanesulfonyl chloride (0.84 mL, 10.8 mmol) was added dropwise. The mixture was allowed to warm to room temperature and a white precipitate formed. After 2.5 h, the solvent was removed and the residue was dissolved in water, which was subsequently extracted twice with ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated to provide a yellow oil. To the oil was added DMF (10 mL) and potassium cyanide (703 mg, 10.8 mmol). The resulting mixture was stirred at rt for 15 h. Water was then added, and the aqueous mixture was extracted twice with ethyl acetate. The organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (60% hexanes, 40% ethyl acetate) to provide 800 mg of 1,1-dimethylethyl 4-({[5-(cyanomethyl)-2-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate (2.2 mmol, 41% yield). 1H NMR (400 MHz, CDCl3): δ6.89-6.81 (m, 3H), 4.15 (br m, 2H), 3.86 (s, 3H), 3.86-3.83 (m, 2H), 3.69 (s, 2H), 2.76 (br m, 2H), 2.10-2.00 (m, 1H), 1.87 (br d, 2H), 1.47 (s, 9H), 1.31-1.20 (m, 2H); MS (EI) for C20H28N2O4: 383 (MNa+).

reactant | 1,1-dimethylethyl 4-({[5-(hydroxymethyl)-2-(methyloxy) phenyl]oxy}methyl)piperidine-1-carboxylate | 5.4 mmol, 1.88 g | OCC=1C=CC(=C(C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)OC | C19H29NO5
reactant | triethylamine | 16.2 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 10.8 mmol, 0.84 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium cyanide | 10.8 mmol, 703 mg | [C-]#N.[K+]
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl 4-({[5-(cyanomethyl)-2-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate | 2.2 mmol, 800 mg, 41% yield | C(#N)CC=1C=CC(=C(C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)OC | C20H28N2O4
